US07709511B2
N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrobromide
N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide prepared as described in Example 7 (52 mg) was dissolved in ethanol (1.5 ml) and treated with 48% hydrobromic acid (21 μl). The white solid dihydrobromide salt was collected by filtration. Yield 58 mg.

reactant | N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide | C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CCNCCC1=CC=C(C=2NC(SC21)=O)O)CC | C32H42N4O4S
reactant | hydrobromic acid | 21 μl | Br | BrH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrobromide | Br.Br.C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CCNCCC1=CC=C(C=2NC(SC21)=O)O)CC | InChI=1S/C32H42N4O4S.2BrH/c1-3-35(4-2)20-21-36(19-18-33-17-14-26-12-13-28(37)30-31(26)41-32(39)34-30)29(38)16-23-40-22-15-25-10-7-9-24-8-5-6-11-27(24)25;;/h5-13,33,37H,3-4,14-23H2,1-2H3,(H,34,39);2*1H
